US04507296
(c) 1-Amino-4-[3-(1-piperidinylmethyl)phenoxy]-2-butanol
A solution of 1-azido-4[3-(1-piperidinylmethyl)phenoxy]-2-butanol (10 g) in dry tetrahydrofuran (100 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (4 g) in tetrahydrofuran (200 ml) under nitrogen. The resulting mixture was stirred at room temperature for 1 h and quenched with water (4 ml), followed by 15% sodium hydroxide (4 ml) and water (12 ml). The mixture was then filtered and the residue washed with tetrahydrofuran (50 ml). The combined filtrate was evaporated to give the title compound (7.5 g) as a pale pink oil.

reactant | 1-azido-4[3-(1-piperidinylmethyl)phenoxy]-2-butanol | 10 g | N(=[N+]=[N-])CC(CCOC1=CC(=CC=C1)CN1CCCCC1)O | C16H24N4O2
reactant | lithium aluminium hydride | 4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-Amino-4-[3-(1-piperidinylmethyl)phenoxy]-2-butanol | 7.5 g | NCC(CCOC1=CC(=CC=C1)CN1CCCCC1)O | C16H26N2O2
